US08034812B2
Production of 3-(1-cyanocyclobutyl)-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-4-methylphenyl]benzamide
Using 3-(1-cyanocyclobutyl)benzoic acid (110 mg, 0.56 mmol), oxalyl chloride (60 μL, 0.70 mmol), N,N-dimethylformamide (1 drop), tetrahydrofuran (3.0 mL), N-[6-(5-amino-2-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (150 mg, 0.46 mmol) and N-methylpyrrolidone (3.0 mL) as starting materials and in the same manner as in Example 335, the title compound (150 mg, 64%) was obtained as a white powder.

reactant | 3-(1-cyanocyclobutyl)benzoic acid | 0.56 mmol, 110 mg | C(#N)C1(CCC1)C=1C=C(C(=O)O)C=CC1 | C12H11NO2
reactant | oxalyl chloride | 0.70 mmol, 60 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
reactant | N-[6-(5-amino-2-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.46 mmol, 150 mg | NC=1C=CC(=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C1)C | C17H17N5O2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N-methylpyrrolidone | 3.0 mL | CN1C(CCC1)=O | C5H9NO
product | 3-(1-cyanocyclobutyl)-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-4-methylphenyl]benzamide | 150 mg, 64% | C(#N)C1(CCC1)C=1C=C(C(=O)NC2=CC(=C(C=C2)C)OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C29H26N6O3
